US06503907B2
864 mg (4.1 mmol) 1-Phenyl-1H-indol-5-ol in 10 ml acetone were treated with 2.44 g (10 mmol) 1,6-dibromohexane and 2.8 g (20 mmol) K2CO3 at reflux for 4 h. The solution was filtered, concentrated and purified by column chromatography on silica gel with hexane/EtOAc 39:1 to yield 800 mg (52%) 5-(6-Bromo-hexyloxy)-1-phenyl-1H-indole as colorless oil, MS: 371 (M, 1Br).

reactant | 1-Phenyl-1H-indol-5-ol | 4.1 mmol, 864 mg | C1(=CC=CC=C1)N1C=CC2=CC(=CC=C12)O | C14H11NO
reactant | 1,6-dibromohexane | 10 mmol, 2.44 g | BrCCCCCCBr | C6H12Br2
reactant | K2CO3 | 20 mmol, 2.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 5-(6-Bromo-hexyloxy)-1-phenyl-1H-indole | 800 mg, 52% | BrCCCCCCOC=1C=C2C=CN(C2=CC1)C1=CC=CC=C1 | C20H22BrNO
